US05470845
A. (Methoxymethyl)phosphonic acid, diethyl ester
To a sample of 17.90 mL (0.104 mol) of triethylphosphite at -78° C. under argon was added dropwise 8.50 mL (0.104 mol) of bromomethyl methyl ether. The mixture slowly warmed to RT and stirred for 24 h, when it was fractionally distilled (bp 100° C., 5 mm) to provide 16.22 g (98%) of title compound as a pale yellow oil.

reactant | triethylphosphite | 0.104 mol, 17.90 mL | C(C)OP(OCC)OCC | C6H15O3P
reactant | bromomethyl methyl ether | 0.104 mol, 8.50 mL | COCBr | C2H5BrO
product | (Methoxymethyl)phosphonic acid, diethyl ester | 16.22 g, 98% | COCP(OCC)(OCC)=O | C6H15O4P
